US05760050
3-Benzyl-8-methoxy-1,2,3,4-tetrahydro-chromeno[3,4-c]-pyridin-5-one
A mixture of 3-methoxyphenol (28.3 g, 227 mmol) and methyl 1-benzyl-4-oxo-3-piperidinecarboxylate hydrochloride (46.1 g, 162 mmol) is cooled in ice and treated dropwise with a solution prepared from 38 mL of water diluted to 150 mL with concentrated sulfuric acid. The mixture is stirred at room temperature for 48 hours, then added slowly to 500 g of ice and 100 mL of concentrated ammonium hydroxide. Additional ice and ammonium hydroxide are added until the pH of the mixture is 10 to 11. Stirring is continued until the initially gummy precipitate becomes granular. The solid is filtered, then stirred in 400 mL of 2.5% aqueous sodium hydroxide solution followed by 400 mL of 10% methanol in water. The solid is again filtered and recrystallized from 2-propanol to yield 24.5 g (47%) of final product; mp 118°-120° C.

reactant | 3-methoxyphenol | 227 mmol, 28.3 g | COC=1C=C(C=CC1)O | C7H8O2
reactant | methyl 1-benzyl-4-oxo-3-piperidinecarboxylate hydrochloride | 162 mmol, 46.1 g | Cl.C(C1=CC=CC=C1)N1CC(C(CC1)=O)C(=O)OC
reactant | water | 38 mL | O | H2O
reactant | ammonium hydroxide | 100 mL | [OH-].[NH4+]
solvent | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 3-Benzyl-8-methoxy-1,2,3,4-tetrahydro-chromeno[3,4-c]-pyridin-5-one | 24.5 g, 47% | C(C1=CC=CC=C1)N1CC2=C(CC1)C=1C=CC(=CC1OC2=O)OC | C20H19NO3
